US20010025042A1
Part B: 1-acetyl-5-bromo-7-chloroindoline (1.17 g) was dissolved in a mixture of ethanol (15 mL) and water (8 mL) containing KOH (0.5 g) and heated to reflux for 2 h. The reaction was partitioned between EtOAc (100 mL) and water (20 mL). The organic extract was washed with brine (20 mL), dried and stripped in vacuo to give 5-bromo-7-chloroindoline (0.87 g).

reactant | 1-acetyl-5-bromo-7-chloroindoline | 1.17 g | C(C)(=O)N1CCC2=CC(=CC(=C12)Cl)Br | C10H9BrClNO
reactant | KOH | 0.5 g | [OH-].[K+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | water | 8 mL | O | H2O
product | 5-bromo-7-chloroindoline | 0.87 g | BrC=1C=C2CCNC2=C(C1)Cl | C8H7BrClN
